US06953790B2
Step E. Benzyl (3R)-6-(2,3-difluorophenyl)-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate
Trifluoroacetic acid (60 mL) was added to a solution of benzyl (3R)-6-(2,3-difluorophenyl)-1-(2,4-dimethoxybenzyl)-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate (3.70 g, 7.08 mmol) in dichloromethane (40 mL). After 18 h, the mixture was concentrated at 25° C., methanol (150 mL) was added, and the precipitate filtered. The filtrate was concentrated, diluted with dichloromethane (100 mL), washed with water (2×), saturated aqueous sodium bicarbonate (2×), saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (5% ethyl acetate/hexanes→65% ethyl acetate/hexanes) gave the title compound (1.75 g). MS 373.1 (M+1).

reactant | Trifluoroacetic acid | 60 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzyl (3R)-6-(2,3-difluorophenyl)-1-(2,4-dimethoxybenzyl)-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate | 7.08 mmol, 3.70 g | FC1=C(C=CC=C1F)C1=CC[C@H](C(N(C1)CC1=C(C=C(C=C1)OC)OC)=O)NC(OCC1=CC=CC=C1)=O | C29H28F2N2O5
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | Benzyl (3R)-6-(2,3-difluorophenyl)-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate | 1.75 g | FC1=C(C=CC=C1F)C1=CC[C@H](C(NC1)=O)NC(OCC1=CC=CC=C1)=O | C20H18F2N2O3
